US06339045B1
Production of N-(ethoxymethyl)-4-methoxy-6-{3-(trifluoromethyl)phenoxy}-2-pyridine carboxamide (compound No. I-87)
1.0 g (0.0032 mol) of 4-methoxy-6-{3-(trifluoromethyl)phenoxy}-2-pyridine carboxamide was dissolved in a mixed solvent containing about 20 ml of benzene and about 10 ml of DMF, and the obtained solution was mixed with 0.14 g (ca. 60% in mineral oil; 0.0032×1.1 mol) of NaH, followed by treating the solution under reflux for several minutes. Thereafter, the resultant reaction solution was mixed with 0.61 g (0.0032×2.0 mol) of chloromethyl ethyl ether, followed by treating the solution under reflux for about 3 hours. The reaction solution was distributed in ethyl acetate-saturated sodium bicarbonate water and then washed with saturated brine. The organic phase of the solution was dried with anhydrous sodium sulfate, concentrated and purified by silica gel column chromatography (eluting solution: ethyl acetate/hexane), thereby obtaining an aimed product.

reactant | 4-methoxy-6-{3-(trifluoromethyl)phenoxy}-2-pyridine carboxamide | 0.0032 mol, 1.0 g | COC1=CC(=NC(=C1)OC1=CC(=CC=C1)C(F)(F)F)C(=O)N | C14H11F3N2O3
reactant | benzene | about 20 ml | C1=CC=CC=C1 | C6H6
reactant | NaH | 1.1 mol, 0.14 g | [H-].[Na+]
reactant | chloromethyl ethyl ether | 2.0 mol, 0.61 g | C(C)OCCl | C3H7ClO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | about 10 ml | CN(C)C=O | C3H7NO
product | N-(ethoxymethyl)-4-methoxy-6-{3-(trifluoromethyl)phenoxy}-2-pyridine carboxamide | C(C)OCNC(=O)C1=NC(=CC(=C1)OC)OC1=CC(=CC=C1)C(F)(F)F | C17H17F3N2O4
